US07163951B2
To a solution of crude 5-bromo-3-fluoro-N-methoxy-N-methylpyridine-2-carboxamide (27.94 g, 106.2 mmol) in THF (350 mL) at −78° C. was added lithium aluminum hydride (1M in THF, 45.67 mL, 45.67 mmol) dropwise. The reaction was stirred at −78° C. for 2 hours, then H2O (100 mL) and brine (100 mL) were added. The mixture was warmed to RT and partially concentrated in vacuo, diluted with ethyl acetate and filtered through celite. The aqueous layer was extracted 4× with ethyl acetate. The combined organics were washed with brine, dried over Na2SO4, filtered and concentrated under vacuum. The residue was filtered through a silica gel plug with 10% ethyl acetate in hexanes to provide 5-bromo-3-fluoropyridine-2-carbaldehyde that gave proton NMR spectra consistent with theory.

reactant | 5-bromo-3-fluoro-N-methoxy-N-methylpyridine-2-carboxamide | 106.2 mmol, 27.94 g | BrC=1C=C(C(=NC1)C(=O)N(C)OC)F | C8H8BrFN2O2
reactant | lithium aluminum hydride | 45.67 mmol, 1M, 45.67 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | H2O | 100 mL | O | H2O
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | brine | 100 mL | [Cl-].[Na+].O
product | 5-bromo-3-fluoropyridine-2-carbaldehyde | BrC=1C=C(C(=NC1)C=O)F | C6H3BrFNO
